US07288537B2
1-{(S)-3-[3-(4-chloro-3-fluoro-phenoxy)-azetidin-1-yl]-1-hydroxymethyl-propyl}-3-(5-ethyl-[1,3,4]thiadiazol-2-yl)-urea—Example 142
This compound is prepared analogously to 1-{(S)-3-[3-(4-chloro-phenoxy)-azetidin-1-yl]-1-hydroxymethyl-propyl}-3-(5-ethyl-[1,3,4-thiadiazol-2-yl)-urea in Example 99 except using (S)-2-amino-4-[3-(4-chloro-3-fluoro-phenoxy)-azetidin-1-yl]-butan-1-ol hydrochloride in place of (S)-2-amino-4-[3-(4-chloro-phenoxy)-azetidin-1-yl]-butan-1-ol hydrochloride.

reactant | 5-ethyl-[1,3,4-thiadiazol-2-yl)-urea | C(C)C1=NN=C(S1)NC(=O)N | C5H8N4OS
reactant | (S)-2-amino-4-[3-(4-chloro-3-fluoro-phenoxy)-azetidin-1-yl]-butan-1-ol hydrochloride | Cl.N[C@H](CO)CCN1CC(C1)OC1=CC(=C(C=C1)Cl)F
product | 1-{(S)-3-[3-(4-chloro-3-fluoro-phenoxy)-azetidin-1-yl]-1-hydroxymethyl-propyl}-3-(5-ethyl-[1,3,4]thiadiazol-2-yl)-urea | ClC1=C(C=C(OC2CN(C2)CC[C@@H](CO)NC(=O)NC=2SC(=NN2)CC)C=C1)F | C18H23ClFN5O3S
